### PR TITLE
[Merged by Bors] - feat(CategoryTheory): Finality of functors from filtered categories into PUnit

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Filtered/Final.lean [hunk 1]
```diff
@@ -230,4 +230,24 @@ theorem Functor.initial_iff_isCofiltered_costructuredArrow [IsCofilteredOrEmpty
 
 end LocallySmall
 
+/-- If `C` is filtered, then every functor `F : ⥤ Discrete PUnit` is final. -/
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Filtered/Final.lean:233]:
```suggestion
/-- If `C` is filtered, then every functor `F : C ⥤ Discrete PUnit` is final. -/
```

File: Mathlib/CategoryTheory/Filtered/Final.lean [hunk 2]
```diff
@@ -230,4 +230,24 @@ theorem Functor.initial_iff_isCofiltered_costructuredArrow [IsCofilteredOrEmpty
...
+theorem Functor.final_of_isFiltered_pUnit {C : Type u₁} [Category.{v₁} C]
+    [IsFiltered C] (F : C ⥤ Discrete PUnit) :
+    Final F := by
+  refine final_of_exists_of_isFiltered F (fun _ => ?_) (fun {_} {c} _ _ => ?_)
+  · use Classical.choice IsFiltered.nonempty
+    exact ⟨Discrete.eqToHom (by simp)⟩
+  · use c; use 𝟙 c
+    apply Subsingleton.elim
+
+/-- If `C` is cofiltered, then every functor `F : ⥤ Discrete PUnit` is initial. -/
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Filtered/Final.lean:243]:
```suggestion
/-- If `C` is cofiltered, then every functor `F : C ⥤ Discrete PUnit` is initial. -/
```

File: Mathlib/CategoryTheory/Filtered/Final.lean [hunk 3]
```diff
@@ -230,4 +230,24 @@ theorem Functor.initial_iff_isCofiltered_costructuredArrow [IsCofilteredOrEmpty
 
 end LocallySmall
 
+/-- If `C` is filtered, then every functor `F : ⥤ Discrete PUnit` is final. -/
+theorem Functor.final_of_isFiltered_pUnit {C : Type u₁} [Category.{v₁} C]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Filtered/Final.lean:234]: I would call this `final_of_isFiltered_of_pUnit` I think.

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
